US04929639
To a solution of (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-phthalimidomethyl-1,3-dioxane (54 mg) in ethanol (2 ml) was added hydrazine monohydrate (0.007 ml) and the mixture was stirred at room temperature overnight. The solvent was evaporated in vacuo and the crude product was purified with preparative TLC (chloroform:methanol:conc.aqueous ammonia=85:15:0.1) to give (2R,4R,5S)-4-aminomethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (13 mg).

reactant | (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-phthalimidomethyl-1,3-dioxane | 54 mg | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H27NO6
reactant | hydrazine monohydrate | 0.007 ml | O.NN
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2R,4R,5S)-4-aminomethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 13 mg | NC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H25NO4
